US08877780B2
To a stirred mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.97 g, 3.00 mmol) and 4-methyl-benzoyl chloride (0.46 g, 3.00 mmol) in MeCN (20 mL), was added DIPEA (1.05 mL, 6.00 mmol) at room temperature under nitrogen. After 1 h, the solvent was removed in vacuo and the residue was dissolved in EtOAc (100 mL). The organic layer was washed with dil. aq. HCl (2×150 mL), water (100 mL), dried (MgSO4) and then concentrated. The product was triturated in Et2O (50 mL) for 18 h then filtered and dried in vacuo to give N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-methyl-benzamide as a white solid (0.85 g, 70% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 4.48 min (96.54%); mp: 194-196° C.; 1H NMR (DMSO-d6) δ 1.97-2.14 (m, 1H, CHH), 2.36 (s, 3H, CH3), 2.44-2.71 (m, 2H, M01), 2.78-3.04 (m, 1H, CHH), 4.63 (d, J=5.9 Hz, 2H, CH2), 5.14 (dd, J=5.4, 12.9 Hz, 1H, CH), 7.30 (d, J=7.9 Hz, 2H, Ar), 7.75-7.86 (m, 4H, Ar), 7.90 (d, J=7.6 Hz, 1H, Ar), 9.14 (t, J=5.9 Hz, 1H, NH), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.96, 21.99, 30.93, 42.57, 49.01, 121.95, 123.53, 127.27, 128.91, 129.77, 131.14, 131.60, 133.42, 141.37, 147.73, 166.30, 166.99, 167.13, 169.80, 172.72; LCMS: MH=406; Anal Calcd for C22H19N3O5+0.1H2O: C, 64.89; H, 4.75; N, 10.32. Found: C, 64.72; H, 4.70; N, 10.15.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.00 mmol, 0.97 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | 4-methyl-benzoyl chloride | 3.00 mmol, 0.46 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | DIPEA | 6.00 mmol, 1.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeCN | 20 mL | CC#N | C2H3N
product | N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-methyl-benzamide | 0.85 g, 70% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(C1=CC=C(C=C1)C)=O)=O)=O | C22H19N3O5
